US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[4-N-(2-methylthioethoxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester
The title compound (2.60 g, 85%) was synthesized by the reaction of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (1.72 g, 5 mmol) and [4-N-(2-methylthioethoxycarbonyl)-cytosin-1-yl]-acetic acid (1.44 g, 5 mmol) as per the procedure of Example 20. 1H NMR (500 MHz; DMSO-d6) δ 8.89 (t, 0.6H) 8.75 (t, 0.4H) 8.28 (dd, 1H) 8.19 (dd, 1H) 7.90 (d, 0.6H) 7.84 (d, 0.4H) 7.67 (m, 2H) 6.99 (m, 1H) 4.81 (s, 1.2H) 4.62 (s, 0.8H) 4.35 (s, 0.8H) 4.26 (t, 2H) 4.14 (q, 0.8H) 4.06 (s, 1.2H) 4.04 (q, 1.2H) 3.59 (t, 1.2H) 3.42 (m, 2.0H) 3.21 (q, 0.8H) 2.73 (t, 2H) 2.12 (s, 3H) 1.20 (t, 1.2H) 1.15 (t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 5 mmol, 1.72 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [4-N-(2-methylthioethoxycarbonyl)-cytosin-1-yl]-acetic acid | 5 mmol, 1.44 g | CSCCOC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C10H13N3O5S
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[4-N-(2-methylthioethoxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester | 2.60 g, 85% | C(C)OC(CN(C(CN1C(=O)N=C(NC(=O)OCCSC)C=C1)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C23H28N6O8S3
